US09353107B2
Step-iv: 5-(3-fluoro-4-(piperidin-4-yl)phenyl)-3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(2-fluoro-4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate (110 mg, 0.184 mmol) was deprotected in TFA/DCM (3/0.5 mL) to afford 9 mg (8.1% yield) of the titled compound. 1H NMR (CD3OD, 400 MHz): δ 8.6 (s, 1H), 8.14-8.13 (d, 1H), 7.55 (s, 1H), 7.50-7.30 (m, 4H), 7.05-6.95 (td, 2H), 6.90-6.85 (d, 1H), 5.37 (s, 2H), 3.52-3.49 (d, 2H), 3.24-3.14 (m, 3H), 2.20 (s, 3H), 2.18 (s, 3H), 2.10-1.95 (m, 4H). MS: m/z=497.8 (M+1), HPLC: 96.3% in method A.

reactant | tert-butyl 4-(2-fluoro-4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate | 0.184 mmol, 110 mg | FC1=C(C=CC(=C1)C=1C=C2C(=NC1)NC=C2C=2C(=NN(C2C)CC2=CC(=CC=C2)F)C)C2CCN(CC2)C(=O)OC(C)(C)C | C35H37F2N5O2
solvent | TFA DCM | 0.5 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 5-(3-fluoro-4-(piperidin-4-yl)phenyl)-3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine | 9 mg, 8.1% yield | FC=1C=C(C=CC1C1CCNCC1)C=1C=C2C(=NC1)NC=C2C=2C(=NN(C2C)CC2=CC(=CC=C2)F)C | C30H29F2N5
